US08211908B2
To a solution of 76 mg of 3-fluoro-1,5-naphthyridine in 3 mL of chloroform, 136 mg of m-chloroperbenzoic acid was added, and the mixture was stirred at room temperature for 2.5 hours. Thereto was added 27 mg of m-chloroperbenzoic acid, and the mixture was stirred at room temperature for 1 hour. To the reaction mixture, a 5% aqueous sodium thiosulfate solution and chloroform were added, the organic layer was separated and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by silica gel column chromatography using silica gel; Silica Gel 60N made by KANTO CHEMICAL CO., INC., and an eluent of chloroform:methanol=50:1 to obtain 60 mg of 7-fluoro-1,5-naphthyridine 1-oxide as a light yellow solid.

reactant | 3-fluoro-1,5-naphthyridine | 76 mg | FC=1C=NC2=CC=CN=C2C1 | C8H5FN2
reactant | m-chloroperbenzoic acid | 136 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | m-chloroperbenzoic acid | 27 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 3 mL | C(Cl)(Cl)Cl | CHCl3
product | 7-fluoro-1,5-naphthyridine 1-oxide | 60 mg | FC1=CN=C2C=CC=[N+](C2=C1)[O-] | C8H5FN2O
